US09388189B2
(S)-4-Hydroxy-N-(3-hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide
(S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide (40 mg, 0.04 mmol) was treated with boron tribromide (1M in dichloromethane, 388 μl, 0.39 mmol) in dichloromethane (800 μl) and then with a solution of ammonia (7N in methanol, 800 μl, 5.60 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (0% to 10% dichloromethane-2-propanol) to obtain 3 mg (11% yield, 88% purity) of the title compound.

reactant | (S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide | 0.04 mmol, 40 mg | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC | C40H44N8O6SSi
reactant | boron tribromide | 0.39 mmol, 1M, 388 μl | B(Br)(Br)Br | BBr3
reactant | ammonia | 5.60 mmol, 7N, 800 μl | N | H3N
solvent | dichloromethane | 800 μl | ClCCl | CH2Cl2
product | (S)-4-Hydroxy-N-(3-hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide | 11% yield | OC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC(=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)O | C33H28N8O5S
